US07612075B2
1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-naphthalen-2-ylmethyl)-3-(S)-methoxymethyl-6-(S)-methyl-piperazin-2-one
The title compound is prepared as described in EXAMPLE 268, using 1-(4-amino-quinazoline-7-ylmethyl)-3-methoxymethyl-6-methyl-piperazine-2-one, EXAMPLE 87, and 2-bromomethyl-6-chloronaphthalene, EXAMPLE 12. 1H NMR (CDCl3, 300 MHz) δ8.59 (s, 1H), 7.79 (d, 1H), 7.70-7.12 (m, 3H), 7.68-7.67 (m, 2H), 7.55 (d, 1H), 7.39 (d, 1H), 4.78 (d, 2H), 3.98 (d, 2H), 3.44 (s, 3H), 3.38 (t, 1H), 2.64 (m, 2H), 1.26 (d, 3H). MS (ISP) 490, 492, (M+H), Cl pattern.

reactant | 1-(4-amino-quinazoline-7-ylmethyl)-3-methoxymethyl-6-methyl-piperazine-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C(C(NCC1C)COC)=O | C16H21N5O2
reactant | 2-bromomethyl-6-chloronaphthalene | BrCC1=CC2=CC=C(C=C2C=C1)Cl | C11H8BrCl
product | 1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-naphthalen-2-ylmethyl)-3-(S)-methoxymethyl-6-(S)-methyl-piperazin-2-one | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(C[C@@H]1C)CC1=CC2=CC=C(C=C2C=C1)Cl)COC)=O | C27H28ClN5O2
